US05712300
Preparation of tert-Butyl α-[[[(4-Methoxyphenyl)sulfonyl]amino]methyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate
A cold (0° C.) solution of tert-butyl α-(1-aminomethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (337 mg, 0.867 mmol) in dry CH2Cl2 (3 mL) is treated with diisopropylethylamine (240 μL, 1.30 mmol) and 4-methoxybenzenesulfonyl chloride (215 mg, 1.30 mmol). The solution was allowed to slowly warm to room temperature, stirring overnight under N2. After diluting with CH2Cl2 (25 mL), the solution is washed with dilute NaHCO3 (10 mL), H2O (10 mL), and brine (10 mL). The organic layer was dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to give 460 mg of a yellow oil. The oil was purified by silica gel chromatography (20 g SG; 25% EtOAc/hexane) to provide 383 mg (79%) of the desired material as a white amorphous solid:

reactant | tert-butyl α-(1-aminomethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 0.867 mmol, 337 mg | NCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C23H36N2O3
reactant | diisopropylethylamine | 1.30 mmol, 240 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxybenzenesulfonyl chloride | 1.30 mmol, 215 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl α-[[[(4-Methoxyphenyl)sulfonyl]amino]methyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 460 mg | COC1=CC=C(C=C1)S(=O)(=O)NCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C30H42N2O6S
